spice
* SPICE netlist for the given schematic

MN1 5 4 4 NMOS_MODEL  * M1: NMOS transistor
R1 3 4 10k            * R1: Resistor
R2 2 0 10k            * R2: Resistor
RD 3 5 1k             * RD: Resistor
C1 2 4 1uF            * C1: Capacitor
VDD 3 0 DC 5V         * VDD: DC Voltage Source

.MODEL NMOS_MODEL NMOS (LEVEL=1)
.END